US07067537B2
Production of 4-methyl-3-[2-(3-pyridyl)-1,3-thiazol-4-yl]pyridine
By the reaction in the same manner as in Example 25-iii) using 2-bromo-1-(4-methylpyridin-3-yl)ethanone hydrobromate (432 mg) and thionicotinamide (152 mg), the title compound (110 mg) was obtained as colorless powder crystals.

reactant | 2-bromo-1-(4-methylpyridin-3-yl)ethanone | 432 mg | BrCC(=O)C=1C=NC=CC1C | C8H8BrNO
reactant | thionicotinamide | 152 mg | C(C1=CN=CC=C1)(=S)N | C6H6N2S
product | 4-methyl-3-[2-(3-pyridyl)-1,3-thiazol-4-yl]pyridine | 110 mg | CC1=C(C=NC=C1)C=1N=C(SC1)C=1C=NC=CC1 | C14H11N3S
